### PR TITLE
Added Erdos 1056.

### LINKED ISSUE #1099: Erdős Problem 1056
### What is the conjecture

https://www.erdosproblems.com/1056

  Let $k\geq 2$. Does there exist a prime $p$ and consecutive intervals $I_1,\ldots,I_k$ such that
$$\prod_{n\in I_i}n \equiv 1\pmod{p}$$
for all $1\leq i\leq k$?

Status:  open

### PR DESCRIPTION
**Pull request by zond**
fixes #1099

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1056.lean [hunk 1]
```diff
@@ -0,0 +1,54 @@
...
+  (∏ n ∈ I, n) % p
+
+/--
+Let $k ≥ 2$. Does there exist a prime $p$ and consecutive intervals $I_0,\dots,I_k$
+such that $\prod\limits_{n{\in}I_i}n\equiv1 [mod n]$ for all $1 \le i \le k$?-/
+@[category research open, AMS 11]
+theorem erdos_1056 :
+  ∀ k ≥ 2, ∃ (p : ℕ) (hp : p.Prime) (ci : boundaries k),
+    ∀ i : Fin k, modProd p (interval k ci i) = 1 ↔ answer(sorry) := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1056.lean]:
```suggestion
theorem erdos_1056 : (∀ k ≥ 2,
    ∃ (p : ℕ) (hp : p.Prime) (boundaries : Fin (k + 1) → ℕ) (h : StrictMono boundaries),
    ∀ (i : Fin k), modProd p (Finset.Ico (boundaries i) (boundaries (i + 1))) = 1)
  ↔ answer(sorry) := by
  sorry
```
I would inline like this, then you don't need `internal` and `boundaries`. Perhaps even inline `modProd` since it is used only once?

File: FormalConjectures/ErdosProblems/1056.lean [hunk 2]
```diff
@@ -0,0 +1,54 @@
...
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1056.lean:47]: add a TODO for additional stuff and known results below the box.

**Review by mo271 — COMMENTED** [review]
Thanks for the contributions. Looks good already (and I think mathematically it is correct), but perhaps it can be slightly simplified, see suggestions..

File: FormalConjectures/ErdosProblems/1056.lean [hunk 3]
```diff
@@ -0,0 +1,43 @@
...
+def modProd (p : ℕ) (I : Finset ℕ) : ℕ :=
+  (∏ n ∈ I, n) % p
+
+/--
+Let $k ≥ 2$. Does there exist a prime $p$ and consecutive intervals $I_0,\dots,I_k$
+such that $\prod\limits_{n{\in}I_i}n\equiv1 [mod n]$ for all $1 \le i \le k$?-/
+@[category research open, AMS 11]
+theorem erdos_1056 : (∀ k ≥ 2,
+    ∃ (p : ℕ) (hp : p.Prime) (boundaries : Fin (k + 1) → ℕ) (h : StrictMono boundaries),
+    ∀ (i : Fin k), modProd p (Finset.Ico (boundaries i) (boundaries (i + 1))) = 1)
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/1056.lean]:
```suggestion
    ∀ (i : Fin k), ∏ n ∈ (Finset.Ico (boundaries i) (boundaries (i + 1))), n ≡ 1 [MOD p])
```
I agree with Moritz's suggestion about inlining `modProd`. This suggestion also uses the MOD notation.

Comment (zond) [reply FormalConjectures/ErdosProblems/1056.lean]: Alright, what do you think now?

File: FormalConjectures/ErdosProblems/1056.lean [hunk 4]
```diff
@@ -0,0 +1,81 @@
...
+*Reference:* [erdosproblems.com/1056](https://www.erdosproblems.com/1056)
+-/
+
+namespace Erdos1056
+
+/--
+Checks if the modular product of each interval equals 1 modulo the prime p,
+where intervals are defined by consecutive boundaries.
+-/
+def Erdos1056For (p : ℕ) (boundaries : List ℕ) : Prop :=
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/1056.lean]: I would define boundaries as a `StrictMono` from `Fin (k + 1)` for some `k` as before, rather than a list. I think it will be slightly more convenient to prove things in this setting (for example I think doing induction will be easier).

Comment (zond) [reply FormalConjectures/ErdosProblems/1056.lean]: Alright, like this?

File: FormalConjectures/ErdosProblems/1056.lean [hunk 5]
```diff
@@ -0,0 +1,80 @@
...
+
+namespace Erdos1056
+
+/--
+Checks if the modular product of each interval equals 1 modulo the prime p,
+where intervals are defined by consecutive boundaries.
+-/
+def Erdos1056For (p : ℕ) {k : ℕ} (boundaries : Fin (k + 1) → ℕ) : Prop :=
+  p.Prime ∧
+  k ≥ 2 ∧
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/1056.lean]: This is rather minor, but I would remove these conditions from `Erdos1056For`, and rather include them in any theorems stated about `Erdos1056For`.

File: FormalConjectures/ErdosProblems/1056.lean [hunk 6]
```diff
@@ -0,0 +1,80 @@
...
+/-!
+# Erdős Problem 1056
+
+*Reference:* [erdosproblems.com/1056](https://www.erdosproblems.com/1056)
+-/
+
+namespace Erdos1056
+
+/--
+Checks if the modular product of each interval equals 1 modulo the prime p,
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1056.lean]:
```suggestion
Checks if the modular product of each interval equals $1$ modulo the prime $p$,
```

File: FormalConjectures/ErdosProblems/1056.lean [hunk 7]
```diff
@@ -0,0 +1,80 @@
...
+def Erdos1056For (p : ℕ) {k : ℕ} (boundaries : Fin (k + 1) → ℕ) : Prop :=
+  p.Prime ∧
+  k ≥ 2 ∧
+  StrictMono boundaries ∧
+  ∀ i : Fin k,
+    (∏ n ∈ Finset.Ico (boundaries i) (boundaries (i + 1)), n) ≡ 1 [MOD p]
+
+/--
+Let $k ≥ 2$. Does there exist a prime $p$ and consecutive intervals $I_0,\dots,I_k$
+such that $\prod\limits_{n{\in}I_i}n \equiv 1 [mod~n]$ for all $1 \le i \le k$?
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1056.lean]:
```suggestion
such that $\prod\limits_{n{\in}I_i}n \equiv 1 \mod n$ for all $1 \le i \le k$?
```

File: FormalConjectures/ErdosProblems/1056.lean [hunk 8]
```diff
@@ -0,0 +1,80 @@
...
+@[category research open, AMS 11]
+theorem erdos_1056 :
+    (∀ k ≥ 2, ∃ (p : ℕ) (boundaries : Fin (k + 1) → ℕ),
+    Erdos1056For p boundaries)
+  ↔ answer(sorry) := by
+  sorry
+
+/--
+This is problem A15 in Guy's collection [Gu04], where he reports that in a letter in 1979
+Erdős observed that $3 * 4 \equiv 5 * 6 * 7 \equiv 1~[mod~11]$.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1056.lean]:
```suggestion
Erdős observed that $3 * 4 \equiv 5 * 6 * 7 \equiv 1 \mod 11$.
```

File: FormalConjectures/ErdosProblems/1056.lean [hunk 9]
```diff
@@ -0,0 +1,80 @@
...
+-/
+@[category research solved, AMS 11]
+theorem erdos_1056_k2 :
+    Erdos1056For 11 ![3, 5, 8] := by
+  unfold Erdos1056For
+  decide
+
+/--
+Makowski [Ma83] found, for $k=3$:
+$2 * 3 * 4 * 5 \equiv 6 * 7 * 8 * 9 * 10 * 11 \equiv 12 * 13 * 14 * 15 \equiv 1~[mod~17]$.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1056.lean]:
```suggestion
$2 * 3 * 4 * 5 \equiv 6 * 7 * 8 * 9 * 10 * 11 \equiv 12 * 13 * 14 * 15 \equiv 1 \mod 17$.
```

File: FormalConjectures/ErdosProblems/1056.lean [hunk 10]
```diff
@@ -0,0 +1,80 @@
...
+-/
+@[category research solved, AMS 11]
+theorem erdos_1056_k3 :
+    Erdos1056For 17 ![2, 6, 12, 16] := by
+  unfold Erdos1056For
+  decide
+
+/--
+Noll and Simmons asked, more generally, whether there are solutions to
+$q_1! \equiv \dots \equiv q_k!~[mod~p]$ for arbitrarily large $k$ (with $q_1 < \dots <q_k$).
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1056.lean]:
```suggestion
$q_1! \equiv \dots \equiv q_k! \mod p$ for arbitrarily large $k$ (with $q_1 < \dots <q_k$).
```

File: FormalConjectures/ErdosProblems/1056.lean (hunk 4 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/1056.lean]: looks good, but see Calle's comment

File: FormalConjectures/ErdosProblems/1056.lean (hunk 5 above)
Comment (zond) [reply FormalConjectures/ErdosProblems/1056.lean]: Sure, but then I would like to rename it something else more generic, because then it doesn't actually check Erdos 1056 (which includes prime and k >= 2) for [something]. WDYT?

Comment (mo271) [reply FormalConjectures/ErdosProblems/1056.lean]: my taste would be to only remove the `k ≥ 2` condition, but keep the `p.Prime`, @callesonne

Comment (zond) [reply FormalConjectures/ErdosProblems/1056.lean]: Isn't k >= 2 as much a part of the conjecture as p.Prime? Please educate a peasant :D

Comment (zond) [reply FormalConjectures/ErdosProblems/1056.lean]: Alright, how about this then? :D

Comment (mo271) [reply FormalConjectures/ErdosProblems/1056.lean]: LGTM now, but I will let @callesonne merge it, to given them a chance for more comments...

File: FormalConjectures/ErdosProblems/1056.lean [hunk 11]
```diff
@@ -0,0 +1,78 @@
...
+
+/--
+Noll and Simmons asked, more generally, whether there are solutions to
+$q_1! \equiv \dots \equiv q_k! \mod p$ for arbitrarily large $k$ (with $q_1 < \dots <q_k$).
+-/
+@[category research open, AMS 11]
+theorem noll_simmons :
+    (∀ k ≥ 2,
+    ∃ (p : ℕ) (_ : p.Prime) (Q : Fin k → ℕ) (_ : StrictMono Q),
+    ∀ i j : Fin k, (Nat.factorial (Q i)) ≡ (Nat.factorial (Q j)) [MOD p]) ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/1056.lean]:
```suggestion
    ∀ i j : Fin k, (Q i)! ≡ (Q j)! [MOD p]) ↔ answer(sorry) := by
```
If you open `Nat` at the top of the file, you can write this

File: FormalConjectures/ErdosProblems/1056.lean [hunk 12]
```diff
@@ -0,0 +1,78 @@
...
+  unfold allModProdEqualsOne
+  decide
+
+/--
+Noll and Simmons asked, more generally, whether there are solutions to
+$q_1! \equiv \dots \equiv q_k! \mod p$ for arbitrarily large $k$ (with $q_1 < \dots <q_k$).
+-/
+@[category research open, AMS 11]
+theorem noll_simmons :
+    (∀ k ≥ 2,
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/1056.lean]:
```suggestion
    (∀ᶠ k in Filter.atTop,
```
This is more in line with "for arbitrarily large `k`"

File: FormalConjectures/ErdosProblems/1056.lean [hunk 13]
```diff
@@ -0,0 +1,78 @@
...
+    (∀ k ≥ 2, ∃ (p : ℕ) (_ : p.Prime) (boundaries : Fin (k + 1) → ℕ),
+    allModProdEqualsOne p boundaries)
+  ↔ answer(sorry) := by
+  sorry
+
+/--
+This is problem A15 in Guy's collection [Gu04], where he reports that in a letter in 1979
+Erdős observed that $3 * 4 \equiv 5 * 6 * 7 \equiv 1 \mod 11$.
+-/
+@[category research solved, AMS 11]
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/1056.lean]:
```suggestion
@[category undergraduate, AMS 11]
```
Since this is just a computation, I would label it as undergraduate. If you want you could state it in a different way where the map `![3, 5, 8]` is not given, i.e. ask to solve erdos_1056 for `k=11` instead (but this is up to you).

File: FormalConjectures/ErdosProblems/1056.lean [hunk 14]
```diff
@@ -0,0 +1,78 @@
...
+theorem erdos_1056_k2 :
+    allModProdEqualsOne 11 ![3, 5, 8] := by
+  unfold allModProdEqualsOne
+  decide
+
+/--
+Makowski [Ma83] found, for $k=3$:
+$2 * 3 * 4 * 5 \equiv 6 * 7 * 8 * 9 * 10 * 11 \equiv 12 * 13 * 14 * 15 \equiv 1 \mod 17$.
+-/
+@[category research solved, AMS 11]
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/1056.lean]:
```suggestion
@[category undergraduate, AMS 11]
```

File: FormalConjectures/ErdosProblems/1056.lean [hunk 15]
```diff
@@ -0,0 +1,78 @@
...
+-/
+
+namespace Erdos1056
+
+/--
+Checks if the modular product of each interval equals $1$ modulo $p$,
+where intervals are defined by consecutive boundaries.
+-/
+def allModProdEqualsOne (p : ℕ) {k : ℕ} (boundaries : Fin (k + 1) → ℕ) : Prop :=
+  StrictMono boundaries ∧
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/1056.lean]:
```suggestion
```
I would rather put this condition in the questions that need it, rather than in this definition (added a suggestion below)

File: FormalConjectures/ErdosProblems/1056.lean [hunk 16]
```diff
@@ -0,0 +1,78 @@
...
+  ∀ i : Fin k,
+    (∏ n ∈ Finset.Ico (boundaries i) (boundaries (i + 1)), n) ≡ 1 [MOD p]
+
+/--
+Let $k ≥ 2$. Does there exist a prime $p$ and consecutive intervals $I_0,\dots,I_k$
+such that $\prod\limits_{n{\in}I_i}n \equiv 1 \mod n$ for all $1 \le i \le k$?
+-/
+@[category research open, AMS 11]
+theorem erdos_1056 :
+    (∀ k ≥ 2, ∃ (p : ℕ) (_ : p.Prime) (boundaries : Fin (k + 1) → ℕ),
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/1056.lean]:
```suggestion
    (∀ k ≥ 2, ∃ (p : ℕ) (_ : p.Prime) (boundaries : Fin (k + 1) → ℕ) (_ : StrictMono boundaries),
```

File: FormalConjectures/ErdosProblems/1056.lean [hunk 17]
```diff
@@ -0,0 +1,78 @@
...
+# Erdős Problem 1056
+
+*Reference:* [erdosproblems.com/1056](https://www.erdosproblems.com/1056)
+-/
+
+namespace Erdos1056
+
+/--
+Checks if the modular product of each interval equals $1$ modulo $p$,
+where intervals are defined by consecutive boundaries.
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/1056.lean]:
```suggestion
The proposition that the modular product of a collection of consecutive interval equals $1$ modulo $p$,
where intervals are defined by a function specifying the consecutive boundaries.
```

Comment (zond) [reply FormalConjectures/ErdosProblems/1056.lean]: Check

File: FormalConjectures/ErdosProblems/1056.lean (hunk 16 above)
Comment (zond) [reply FormalConjectures/ErdosProblems/1056.lean]: Check

File: FormalConjectures/ErdosProblems/1056.lean (hunk 13 above)
Comment (zond) [reply FormalConjectures/ErdosProblems/1056.lean]: Check

File: FormalConjectures/ErdosProblems/1056.lean (hunk 14 above)
Comment (zond) [reply FormalConjectures/ErdosProblems/1056.lean]: Check

File: FormalConjectures/ErdosProblems/1056.lean (hunk 15 above)
Comment (zond) [reply FormalConjectures/ErdosProblems/1056.lean]: Alright!

File: FormalConjectures/ErdosProblems/1056.lean (hunk 12 above)
Comment (zond) [reply FormalConjectures/ErdosProblems/1056.lean]: Thanks!

File: FormalConjectures/ErdosProblems/1056.lean (hunk 11 above)
Comment (zond) [reply FormalConjectures/ErdosProblems/1056.lean]: Great!

File: FormalConjectures/ErdosProblems/1056.lean [hunk 18]
```diff
@@ -0,0 +1,79 @@
...
+*Reference:* [erdosproblems.com/1056](https://www.erdosproblems.com/1056)
+-/
+
+namespace Erdos1056
+
+/--
+The proposition that the modular product of a collection of consecutive interval equals $1$ modulo $p$,
+where intervals are defined by a function specifying the consecutive boundaries.
+-/
+def allModProdEqualsOne (p : ℕ) {k : ℕ} (boundaries : Fin (k + 1) → ℕ) : Prop :=
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/1056.lean]: Actually, a final comment:
```suggestion
def AllModProdEqualsOne (p : ℕ) {k : ℕ} (boundaries : Fin (k + 1) → ℕ) : Prop :=
```
This should be upper camel case according to mathlib naming conventions (which we more or less follow in this repo).

Comment (zond) [reply FormalConjectures/ErdosProblems/1056.lean]: Done

File: FormalConjectures/ErdosProblems/1056.lean [hunk 19]
```diff
@@ -0,0 +1,79 @@
...
+
+/--
+Let $k ≥ 2$. Does there exist a prime $p$ and consecutive intervals $I_0,\dots,I_k$
+such that $\prod\limits_{n{\in}I_i}n \equiv 1 \mod n$ for all $1 \le i \le k$?
+-/
+@[category research open, AMS 11]
+theorem erdos_1056 :
+    (∀ k ≥ 2, ∃ (p : ℕ) (_ : p.Prime) (boundaries : Fin (k + 1) → ℕ) (_ : StrictMono boundaries),
+    AllModProdEqualsOne p boundaries)
+  ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/1056.lean]:
```suggestion
    AllModProdEqualsOne p boundaries) ↔ answer(sorry) := by
```
The indentation is off here now, not sure when this was introduced (maybe I just missed this before).

File: FormalConjectures/ErdosProblems/1056.lean [hunk 20]
```diff
@@ -0,0 +1,78 @@
...
+
+namespace Erdos1056
+
+/--
+The proposition that the modular product of a collection of consecutive interval equals $1$ modulo $p$,
+where intervals are defined by a function specifying the consecutive boundaries.
+-/
+def AllModProdEqualsOne (p : ℕ) {k : ℕ} (boundaries : Fin (k + 1) → ℕ) : Prop :=
+  ∀ i : Fin k,
+    (∏ n ∈ Finset.Ico (boundaries i) (boundaries (i + 1)), n) ≡ 1 [MOD p]
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1056.lean]:
```suggestion
    (∏ n ∈ Finset.Ico (boundaries i.castSucc) (boundaries (i.castSucc + 1)), n) ≡ 1 [MOD p]
```
I think this is now needed after the bump to version v4.22
